US08859591B2
To a flask containing 1-(2-methoxy-6-methylphenyl)-4-(trifluoromethyl)-1H-pyrazole (75.0 mg, 0.290 mmol) was added di-μ-methoxobis(1,5-cyclooctadiene)diiridium(I) (2.00 mg, 0.003 mmol), bis(pinacolato)diboron (75.2 mg, 0.290 mmol), 4,4′di-tert-butyl-2,2′-dipyridyl (1.60 mg, 0.006 mmol) and degassed methyl tert-butyl ether (1.50 mL). The resulting red solution was heated to 80° C. for 18 h and then at room temperature for 3 d. The reaction was concentrated. Acetone (0.980 mL) was added to provide a homogenous solution followed by an aqueous solution of oxone (180 mg, 0.290 mmol), 0.98 mL of water) dropwise over 2 min. The reaction was stirred at room temperature for 18 h. The reaction was then quenched with aqueous sodium bisulfate and extracted three times with methylene chloride. The combined organic layers were washed with brine and water. The organic layer was then dried over sodium sulfate, filtered, and concentrated. Purification by column chromatography (0-25% ethyl acetate in heptane), gave 3-methoxy-5-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenol (26.0 mg, 33%) as a solid. 1H NMR (400 MHz, CDCl3) δ 7.93 (s, 1H), 7.75-7.70 (m, 1H), 6.27 (dd, J=15.8, 2.5 Hz, 2H), 3.68 (s, 3H), 1.96 (s, 3H). MS (M+1): 273.2.

reactant | 1-(2-methoxy-6-methylphenyl)-4-(trifluoromethyl)-1H-pyrazole | 0.290 mmol, 75.0 mg | COC1=C(C(=CC=C1)C)N1N=CC(=C1)C(F)(F)F | C12H11F3N2O
reactant | bis(pinacolato)diboron | 0.290 mmol, 75.2 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | oxone | 0.290 mmol, 180 mg | OOS(=O)[O-].[K+]
catalyst | di-μ-methoxobis(1,5-cyclooctadiene)diiridium(I) | 0.003 mmol, 2.00 mg | CO.CO.C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ir].[Ir]
solvent | water | 0.98 mL | O | H2O
product | 3-methoxy-5-methyl-4-(4-(trifluoromethyl)-1H-pyrazol-1-yl)phenol | 26.0 mg, 33% | COC=1C=C(C=C(C1N1N=CC(=C1)C(F)(F)F)C)O | C12H11F3N2O2
